Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Constipation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with cerebral palsy and quadraparesis after spinal cord 
injury presenting with constipation x1 week.

Pt notes that he has issues with chronic constipation and often 
uses laxatives prn.  However, he has not had a BM now for over 1 
week and is having more diffuse abdominal pain and distension.  
Pt attributes constipation over worsening stress d/t having 
multiple PCT's and not feeling that he is getting care that he 
needs at home.  He denies nausea/vomiting or preceding diarrhea. 
 Has attempted to use miralax, and mag citrate at home with 
minimal efficacy.  Also tried enema.  Of note, he reports one 
prior episode of severe constipation in the past for which he 
was hospitalized at ___ and required "operative decompression".

Pt additionally reports perhaps one subjective fever at home 
this AM, but denies any localizing symptoms of cough, SOB, sore 
throat, dysuria, foul-smelling urine.  He does note increased 
urinary frequency but thinks this is d/t increasing PO fluids to 
relieve constipation.  Pt also may have some issues with 
aspiration and coughing while eating but has been evaluated by 
SLP in the past and does not follow special diet at home.

In the ED, VS: 99.3, 102, 131.93, 95% RA
He spiked a temp of 100.8 briefly and became hypoxic to the high 
80's which improved with NC O2.
Labs were largely unremarkable.
CT a/p showed large stool burden within the rectum and moderate 
stool burden throughout rest of the colon with no e/o bowel 
obstruction.  CXR portable initially showed R basilar opacity 
with could be atelectasis but infection cannot be excluded.  
2-view CXR did not show any obvious pna.
Pt admitted for observation and monitoring of fevers as well as 
tx of constipation

ROS: 10-point ROS reviewed and is negative except as noted 
above.
 
Past Medical History:
Cerebral palsy d/t anoxia at birth
Spinal cord injury d/t fall in ___
Anterior discectomy removing ___
Wisdom teeth removal in ___
Laminoplasty from ___
 
Social History:
___
Family History:
Non-contributory to current presentation
 
Physical Exam:
ADMISSION EXAM:
VITALS:98.5PO 145 / 91R Lying ___ Ra 
GENERAL: contracted, pleasant, laying in bed in NAD, dysarthric 
and difficult to understand
EYES: no scleral icterus, no conjunctival injection, EOMI
ENT: MMM, no obvious oral lesions
NECK: contracted and head chronically turned to R side
RESP: decreased BS at bilateral bases but otherwise grossly CTA, 
no respiratory distress
CV: RRR, no m/r/g
GI: distended, mildly TTP, hyperactive BS
EXT: wwp, multiple contractures
NEURO: minimal purposeful movement in all extremities, pt 
otherwise AOx3 and providing meaningful answers though very 
dysarthric and difficult to understand at times
PSYCH: pleasant, mildly anxious, normal mood and affect

DISCHARGE EXAM:
VS: 98.2PO 149/98 87 16 96% on RA
GENERAL: contracted, pleasant, laying in bed in NAD, dysarthric 
and difficult to understand
EYES: no scleral icterus, no conjunctival injection, EOMI
ENT: MMM, no obvious oral lesions
NECK: contracted and head chronically turned to R side
RESP: decreased BS at bilateral bases but otherwise grossly CTA, 
no respiratory distress
CV: RRR, no m/r/g
GI: less distended today, non-tender, hyperactive BS
EXT: WWP, multiple contractures
NEURO: minimal purposeful movement in all extremities, pt 
otherwise AOx3 and providing meaningful answers though very 
dysarthric and difficult to understand at times
PSYCH: pleasant, mildly anxious, normal mood and affect
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:56PM BLOOD WBC-6.9 RBC-4.76 Hgb-14.9 Hct-43.0 MCV-90 
MCH-31.3 MCHC-34.7 RDW-12.1 RDWSD-40.1 Plt ___
___ 12:56PM BLOOD Neuts-64.4 ___ Monos-4.8* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-4.45 AbsLymp-2.01 
AbsMono-0.33 AbsEos-0.06 AbsBaso-0.03
___ 12:56PM BLOOD Glucose-180* UreaN-6 Creat-0.8 Na-138 
K-4.3 Cl-101 HCO3-23 AnGap-18
___ 12:56PM BLOOD Calcium-9.3 Phos-2.8 Mg-2.1

IMAGING:
========
KUB ___: Air-filled loops of large and small bowel which are 
nondilated.  There is some stool seen within the rectum. 

CT A/P ___:
1. Large stool burden within the rectum and moderate stool 
burden through the rest of the colon.  No evidence of bowel 
obstruction. 
2. No acute intra-abdominal process. 
  
CXR portable ___:
Right basilar opacity which could be atelectasis in the setting 
of low lung volumes.  Infection cannot be excluded. 
Prominent appearance of the right lower paratracheal stripe 
potentially due to positioning. 
For both of these findings, PA and lateral suggested if patient 
is amenable. 
  
CXR 2-view ___:
No radiographic evidence for pneumonia.  Mild bibasilar 
atelectasis.

DISCHARGE LABS:
===============
___ 06:40AM BLOOD WBC-4.7 RBC-4.64 Hgb-14.4 Hct-41.9 MCV-90 
MCH-31.0 MCHC-34.4 RDW-12.1 RDWSD-39.8 Plt ___
___ 06:40AM BLOOD Glucose-174* UreaN-13 Creat-0.8 Na-142 
K-4.2 Cl-103 HCO3-24 AnGap-19
___ 06:40AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.___ year old male with cerebral palsy and functional quadriplegia 
after spinal cord injury presents with constipation and found to 
have low-grade fever.

# Constipation:  Patient reports constipation for over one week. 
 There was no evidence of bowel obstruction on CT A/P.  Patient 
reports that he has needed to have operative decompression in 
the past, several years ago at ___.   Patient had several bowel 
movements over the course of the day after admission, on 
docusate, senna, polyethylene glycol and lactulose.  He also 
received magnesium citrate on admission, which can be used if he 
runs into this problem again at home.  He was discharged home 
with plans to continue docusate and senna, and with 
prescriptions for polyethylene glycol and bisacodyl.  Patient 
will follow up with his PCP soon after discharge, appointment 
scheduled.

# Fever/hypoxia
Patient had brief fever to 100.8 in the ED and brief episode of 
hypoxia to the high ___ in the ED which resolved with NC O2, and 
patient had been sat'ing in the high 90's afterwards despite the 
NC O2 falling out of his nose.  Unclear source of fevers/hypoxia 
as 2-view CXR does not show pneumonia and patient otherwise 
denies symptoms of this.  UA also negative and no other 
localizing symptoms.  He reports chronic coughing with eating so 
possible he may have microaspiration or recurrent aspiration 
pneumonitis.  He was not following special diet at current time. 
 Fevers did not recur.  Speech and swallow eval reports patient 
is at baseline, and recommended resuming his previously 
recommended diet with restrictions.  No antibiotics were given.

# Cerebral palsy/spinal cord injury: continued home baclofen

# Depression/anxiety: continued home citalopram

# Diabetes: held home metformin, with sliding scale insulin 
employed during admission.

TRANSITIONS OF CARE
-------------------
# Follow-up: Patient will follow up with his PCP soon after 
discharge, appointment scheduled.  He was discharged home with 
plans to continue docusate and senna, and with prescriptions for 
polyethylene glycol and bisacodyl.

FULL CODE
HCP: ___ (Uncle): ___, pt requests he be 
contacted in AM

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO BREAKFAST 
2. Baclofen 10 mg PO LUNCH 
3. Baclofen 20 mg PO DINNER 
4. Docusate Sodium 100 mg PO BID 
5. Senna 8.6 mg PO BID:PRN constipation 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. Cyanocobalamin 100 mcg PO DAILY 
8. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*20 Tablet 
Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
daily Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Baclofen 10 mg PO BREAKFAST  
5.  Baclofen 10 mg PO LUNCH  
6.  Baclofen 20 mg PO DINNER  
7.  Cyanocobalamin 100 mcg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  MetFORMIN (Glucophage) 500 mg PO BID  
10.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home With Service
 
Facility:
 ___
 
Discharge Diagnosis:
Constipation
Fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your recent admission at 
___.  You came for further evaluation of constipation.  
Several medications were given to you, and you had several bowel 
movements while here.  You will continue some of these 
medications at home.

You had a mild fever when you arrived to the hospital, with no 
source of infection found.  This did not recur.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!
 
Followup Instructions:
___